US08865732B2
A solution of lithium diisopropylamide (1.8 M in THF-heptane-ethylbenzene, 1.4 mL, 2.6 mmol) was added dropwise into a cooled solution of 5-bromo-2-(4-(trifluoromethyl)phenyl)oxazole (620 mg, 2.1 mmol) in dry THF (20 mL) at −78° C. After 2.5 h, 2-chloropyrimidine (292 mg, 2.6 mmol) was added. After 10 min, the reaction flask was raised half way out of the acetone-dry ice bath and maintained for 30 min, after which the reaction was warmed to 10° C. in an ice-water bath and maintained for 1 h. The reaction was quenched with water (1 mL) and concentrated. The resulting mixture was partitioned between EtOAc (70 mL) and water (40 mL), and the layers were separated. The organic phase was washed with water, brine, dried (Na2SO4), and concentrated to give 859 mg of a residue as 4-bromo-5-(2-chloro-4,5-dihydropyrimidin-4-yl)-2-(4-(trifluoromethyl)phenyl)oxazole which was used in the next step without further purification: LCMS (m/z): 407.9 (MH+), tR=0.83 min. A suspension of 4-bromo-5-(2-chloro-4,5-dihydropyrimidin-4-yl)-2-(4-(trifluoromethyl)phenyl)oxazole (859 mg, 2.12 mmol) and MnO2 (1.8 g, 21.2 mmol) in EtOAc (10 mL) was irradiated at 110° C. for 10 min in a microwave reactor. The reaction was allowed to cool to rt and was filtered through a plastic membrane. The filtrate was concentrated and resulting residue was triturated with EtOAc to afford 234 mg of 4-bromo-5-(2-chloropyrimidin-4-yl)-2-(4-(trifluoromethyl)phenyl)oxazole: LCMS (m/z): 406.0 (MH+), tR=1.19 min.

reactant | 4-bromo-5-(2-chloro-4,5-dihydropyrimidin-4-yl)-2-(4-(trifluoromethyl)phenyl)oxazole | 2.12 mmol, 859 mg | BrC=1N=C(OC1C1N=C(N=CC1)Cl)C1=CC=C(C=C1)C(F)(F)F | C14H8BrClF3N3O
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
catalyst | MnO2 | 21.2 mmol, 1.8 g | O=[Mn]=O
product | 4-bromo-5-(2-chloropyrimidin-4-yl)-2-(4-(trifluoromethyl)phenyl)oxazole | 234 mg | BrC=1N=C(OC1C1=NC(=NC=C1)Cl)C1=CC=C(C=C1)C(F)(F)F | C14H6BrClF3N3O
